US07842685B2
In a sealable tube a slurry of N-(3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-1-hydroxy-2-(hydroxymethyl)propan-2-yl)acetamide (0.14 g, 0.28 mmol) in hydrochloric acid, 5 N (5.00 ml, 165 mmol) was heated to 120° C. The heterogeneous reaction mixture turned light green after 2 h of heating. The reaction mixture was cooled, filtered through a glass frit, and the solid was rinsed with water, EtOH, and CHCl3. The EtOH and CHCl3 filtrate was combined and concentrated, and this was combined with the isolated solid, and the material was purified by SFC (Sepapak 2 (250×21 mm, 5 micron) column using 50% methanol with 0.2% DEA as additive in supercritical CO2 with a flow rate of 60 ml/min) to give 2-amino-2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)propane-1,3-diol. MS (ESI) m/z: calculated: 449.2; Observed: 450.0 (M++1). Also isolated was (rac)-2-amino-3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propan-1-ol. MS (ESI) m/z: calculated: 419.2; Observed: 420.1 (M++1).

reactant | N-(3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-1-hydroxy-2-(hydroxymethyl)propan-2-yl)acetamide | 0.28 mmol, 0.14 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CC(CO)(CO)NC(C)=O | C27H26FN3O3S
solvent | hydrochloric acid | Cl | ClH
product | 2-amino-2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)propane-1,3-diol | NC(CO)(CO)CC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C25H24FN3O2S
